US07618985B2
To a solution of 6-hydroxy-2H-isoquinolin-1-one (500 mg, 3.10 mmol), triethyl amine (860 μL, 6.2 mmol) and pyridine (2.5 ml, 31 mmol) in anhydrous tetrahydrofuran (16 ml) was added N, N-dimethylthiocarbamoyl chloride (573 mg, 4.65 mmol) at 0° C. The mixture was heated to 65° C. and stirred for 24 h. The mixture was concentrated in vacuo with the addition of toluene. Saturated aqueous NaHCO3 was added to the residue and the mixture extracted with ethyl acetate (x3), dried (Na2SO4) and concentrated in vacuo to give a residue. Flash chromatography of the residue using ethyl acetate-heptane (5% to 100% ethylacetate) gave an unwanted side product (280 mg), followed by dimethylthiocarbamic acid 1-oxo-1,2-dihydroisoquinolin-6-yl ester (300 mg). A solution of the dimethylthiocarbamic acid 1-oxo-1,2-dihydroisoquinolin-6-yl ester in o-dichlorobenzene (2.5 ml) was heated under microwave conditions at 230° C. for 60 minutes. The mixture was loaded directly onto a column and flash chromatographed using ethyl acetate:heptane (1:9 to 99:1) to give dimethyl-thiocarbamic acid S-(1-oxo-1,2-dihydro-isoquinolin-6-yl) ester (140 mg). Methanol (7 ml) and potassium hydroxide (86 mg) were added to the dimethyl-thiocarbamic acid S-(1-oxo-1,2-dihydro-isoquinolin-6-yl) ester (140 mg) and the mixture refluxed, under nitrogen, for 2 h at 80° C. The mixture was then cooled and concentrated in vacuo to give a residue. Water was added and the mixture extracted with ethyl acetate (x2). The aqueous phase was acidified (pH ˜2) using dilute hydrochloric acid and the mixture extracted with ethyl acetate (x3). The combined organics were dried (Na2SO4) and concentrated in vacuo to give crude 6-mercapto-2H-isoquinolin-1-one (104 mg).

reactant | Methanol | 7 ml | CO | CH4O
reactant | potassium hydroxide | 86 mg | [OH-].[K+]
reactant | dimethyl-thiocarbamic acid S-(1-oxo-1,2-dihydro-isoquinolin-6-yl) ester | 140 mg | O=C1NC=CC2=CC(=CC=C12)SC(N(C)C)=O | C12H12N2O2S
solvent | Water | O | H2O
product | 6-mercapto-2H-isoquinolin-1-one | 104 mg | SC=1C=C2C=CNC(C2=CC1)=O | C9H7NOS
